US09029545B2
Ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate (210 mg, 0.839 mmol) (Description 30) in DCM (4 mL), was added N-bromosuccinimide (164 mg, 0.923 mmol) and the resulting mixture stirred for 20 min at RT. The mixture was concentrated and purified by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane, to afford the title compound (261 mg). LCMS (A) m/z: 329/331 [M+1]+, Rt 1.20 min (acidic).

reactant | ethyl 4-amino-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 0.839 mmol, 210 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC=C2C | C12H14N2O2S
reactant | N-bromosuccinimide | 0.923 mmol, 164 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 261 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)Br | C12H13BrN2O2S
